US09403832B2
Part A. Tetrahydro-2H-pyran-4-yl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate
This was made by using tetrahydro-2H-pyran-4-ol and following the Part B in the procedure described above for making (R)-tetrahydrofuran-3-yl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate.

reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
reactant | (R)-tetrahydrofuran-3-yl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)O[C@H]2COCC2 | C15H18BrN5O3
product | Tetrahydro-2H-pyran-4-yl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OC2CCOCC2 | C16H20BrN5O3
